US04018895
N-methyl 3-(o-methoxyphenoxy)-3-phenylpropylamine oxalate was dissolved in a minimum quantity of water with heating, and concentrated aqueous sodium hydroxide added. After cooling, the alkaline solution was extracted several times with ether. The combined ether extracts were washed with water and dried, and the ether removed therefrom in vacuo. N-methyl 3(o-methoxyphenoxy)-3-phenylpropylamine free base thus isolated was dissolved in ether, and the ether solution saturated with dry gaseous hydrogen chloride. N-methyl 3(o-methoxyphenoxy)-3-phenylpropylamine hydrochloride thus formed was recrystallized from ethyl acetate containing a small amount of methanol. N-methyl 3-(o-methoxyphenoxy)-3-phenylpropylamine hydrochloride thus prepared and purified melted at 129°-131° C.

reactant | N-methyl 3-(o-methoxyphenoxy)-3-phenylpropylamine oxalate | C(C(=O)O)(=O)O.CNCCC(C1=CC=CC=C1)OC1=C(C=CC=C1)OC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | N-methyl 3(o-methoxyphenoxy)-3-phenylpropylamine | CNCCC(C1=CC=CC=C1)OC1=C(C=CC=C1)OC | C17H21NO2
